US05760037
Preparation of N,N'-bis-(2-methyl-thiazole-4-ylmethyl)-N,N'-bis-(3,4,5-trimethoxybenzyl) ethylenediamine
1.5 g N,N'-bis-(3,4,5-trimethoxybenzyl) ethylenediamine dichlorhydrate were solubilized in 30 ml of a 1:1 ethanol/water mixture. The pH of the solution was brought to 11 using a soda solution. A solution of 1.25 g 4-chloromethyl-2-methylthiazole in solution in 10 ml water were added all at once. The mixture was heated for 5 hours at 45° C., while maintaining the pH at between 10 and 11 by adding a soda solution. After cooling, the ethanol was evaporated under a vacuum and the mixture was acidified to a pH of 1 using concentrated HCl. Extraction was carried out using 3×25 ml dichloromethane, then the organic phase was dried and dry-evaporation effected. The oil obtained was taken up in 10 ml ethanol +0.5 ml concentrated HCl. The resultant precipitate was filtered and washed in ethylic ether. The solid was then recrystallized in 20 ml isopropanol containing 1% water. In this way, 600 mg of a white powder having a melting point of 190° C. was obtained, whose proton NMR spectrum (400 MHZ) and ultimate analysis matched the expected structure (existing as a dichlorhydrate).

reactant | N,N'-bis-(3,4,5-trimethoxybenzyl) ethylenediamine | 1.5 g | COC=1C=C(CNCCNCC2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OC | C22H32N2O6
reactant | 4-chloromethyl-2-methylthiazole | 1.25 g | ClCC=1N=C(SC1)C | C5H6ClNS
solvent | ethanol water | 30 ml | C(C)O.O
solvent | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N,N'-bis-(2-methyl-thiazole-4-ylmethyl)-N,N'-bis-(3,4,5-trimethoxybenzyl) ethylenediamine | CC=1SC=C(N1)CN(CCN(CC1=CC(=C(C(=C1)OC)OC)OC)CC=1N=C(SC1)C)CC1=CC(=C(C(=C1)OC)OC)OC | C32H42N4O6S2
